US06228872B1
3-(3-Pyridyl)propyl-3-phenylpropylamine
A stirred mixture of 3-(3-pyridyl)propionaldehyde (4.40 g, 32.5 mmoles) and 3-phenylpropylamine (5.30 g, 1.2 equiv.) in methanol at rt was treated with sodium cyanoborohydride (1 g, 0.5 equiv.). After 1 h at rt the mixture was further treated with solid potassium hydroxide (3.6 g, 2 equiv.) and stirring was continued for 2 h. The resulting mixture was partitioned between brine and ether. The aqueous layer was extracted with ether and the combined ether extracts were extracted with 6N HCl (3×). These aqueous extracts were basified with solid potassium hydroxide and extracted with ether (3×), dried over sodium sulfate and concentrated in vacuo. The residue was distilled under high vacuum to give the product as a colorless oil (2.44 g, 30%), b.p. ca. 162° C./0.5 mm Hg.

reactant | 3-(3-pyridyl)propionaldehyde | 32.5 mmoles, 4.40 g | N1=CC(=CC=C1)CCC=O | C8H9NO
reactant | 3-phenylpropylamine | 5.30 g, 1.2 equiv. | C1(=CC=CC=C1)CCCN | C9H13N
reactant | sodium cyanoborohydride | 1 g, 0.5 equiv. | C(#N)[BH3-].[Na+]
reactant | potassium hydroxide | 3.6 g, 2 equiv. | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 3-(3-Pyridyl)propyl-3-phenylpropylamine | 2.44 g, 30% | N1=CC(=CC=C1)CCCNCCCC1=CC=CC=C1 | C17H22N2
